US08486950B2
To a solution of 3,5-dichloro-4-(methoxycarbonyl)benzoic acid (72 g, 289 mmol) and triethylamine (40 mL) in THF (240 mL) at room temperature was added ethyl chloroformate (40 mL). The reaction mixture was stirred for 20 min at room temperature and filtered. To the filtrate was added (NH4)2CO3 (28 g, 292 mmol) and the mixture was stirred at room temperature for 18 hours. The mixture was diluted with water (300 mL) and extracted with ethyl acetate (3×300 mL). The combined organic extracts were washed with brine (200 mL), dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with petroleum-diethyl ether (5:1) to give methyl 4-carbamoyl-2,6-dichlorobenzoate (57 g, yield: 80%) as a pale yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 3.90 (s, 3H), 7.76 (s, 1H), 7.99 (s, 2H), 8.28 (s, 1H). LCMS (ESI) m/z: 248.0 [M+H+].

reactant | 3,5-dichloro-4-(methoxycarbonyl)benzoic acid | 289 mmol, 72 g | ClC=1C=C(C(=O)O)C=C(C1C(=O)OC)Cl | C9H6Cl2O4
reactant | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 40 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | methyl 4-carbamoyl-2,6-dichlorobenzoate | 57 g, yield: 80% | C(N)(=O)C1=CC(=C(C(=O)OC)C(=C1)Cl)Cl | C9H7Cl2NO3
